US07888503B2
A 5 mL microwave tube was charged with (2E)-3-(dimethylamino)-1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}-2-propen-1-one (0.2 mmol), guanidine hydrochloride (0.4 mmol), potassium carbonate (0.6 mmol) and ethanol (3.5 mL). The reaction was heated to 150° C. for 600 s using microwave irradiation. The reaction was concentrated to dryness and the residue was taken up in water and extracted with ethyl acetate. The organics were dried over magnesium sulfate, filtered and concentrated to dryness. Reconcentration from diethyl ether provided [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl]-(phenyl)methanol as a white foam. H1 NMR (d6-dmso): 8.34 (dd, 1H), 8.26 (d, 1H), 7.93 (m, 1H), 7.31 (m, 4H), 7.21 (m, 2H), 7.05 (d, 1H), 6.67 (br s, 2H), 6.10 (d, 1H), 5.94 (d, 1H). Mass (ES+)=296.1 (100%).

reactant | (2E)-3-(dimethylamino)-1-{4-fluoro-3-[hydroxy(phenyl)methyl]phenyl}-2-propen-1-one | 0.2 mmol | CN(/C=C/C(=O)C1=CC(=C(C=C1)F)C(C1=CC=CC=C1)O)C | C18H18FNO2
reactant | guanidine hydrochloride | 0.4 mmol | Cl.NC(=N)N
reactant | potassium carbonate | 0.6 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | [5-(2-amino-4-pyrimidinyl)-2-fluorophenyl]-(phenyl)methanol | NC1=NC=CC(=N1)C=1C=CC(=C(C1)C(O)C1=CC=CC=C1)F | C17H14FN3O
